US05935973
A mixture of 6-methylpyridine-2,3-dicarboxylic acid (19.75 g) and acetic anhydride (51 ml) was stirred and heated in an oil bath (bath temperature 110° C.) for 5 hours. The solvent was removed in vacuo and a 2:1 mixture of dichloromethane and ether was added, giving a dark brown solid. A solution of this solid in dichloromethane was passed through a pad of silica gel, eluting with dichloromethane, and the solvent was then evaporated to give partially purified 6-methylpyridine-2,3-dicarboxylic acid anhydride (12.1 g).

reactant | 6-methylpyridine-2,3-dicarboxylic acid | 19.75 g | CC1=CC=C(C(=N1)C(=O)O)C(=O)O | C8H7NO4
reactant | acetic anhydride | 51 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-methylpyridine-2,3-dicarboxylic acid anhydride | 12.1 g | CC1=CC=C2C(=N1)C(=O)OC2=O | C8H5NO3
